US04285941
In accordance with the procedure described in Example 5-a), 6-acetoxychromone-3-carboxylic acid (77 mg, 0.314 ml) was treated with thionyl chloride (0.1 ml, 1.4 mmol) to obtain 6-acetoxychromone-3-carbonyl chloride.

reactant | 6-acetoxychromone-3-carboxylic acid | 0.314 ml, 77 mg | C(C)(=O)OC=1C=C2C(C(=COC2=CC1)C(=O)O)=O | C12H8O6
reactant | thionyl chloride | 1.4 mmol, 0.1 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-acetoxychromone-3-carbonyl chloride | C(C)(=O)OC=1C=C2C(C(=COC2=CC1)C(=O)Cl)=O | C12H7ClO5
